US06521716B1
To 2-methylpiperazine (81.90 g, 0.819 mol) in xylene (525 ml) at 133° C. was added with stirring 2,2,6-trimethyl-1,3-dioxen-4-one (232.48 g, 1.637 mol) in xylene (525 ml) over 10 minutes, during which the temperature decreased to 100° C. After heating to 115° C over 5 minutes vigorous effervescence commenced, and after heating to 124° C. over another 5 minutes distillation of acetone (through a Vigreux column) also commenced. Pot temperature was increased to 139° C. over a further 30 minutes, with collection of acetone distillate. After cooling to 20° C. overnight, supernatant liquid was separated from deposited syrup, which was dissolved in dichloromethane. Removal of solvent from combined solutions and drying (92° C./100 Pa) gave N,N′-bis(acetoacetyl)-2-methylpiperazine (BAAMPZ) as a viscous syrup (216.66 g, 99%), identified by 1H-NMR, 13C-NMR, FT-IR and Raman spectra.

reactant | 2-methylpiperazine | 0.819 mol, 81.90 g | CC1NCCNC1 | C5H12N2
reactant | 2,2,6-trimethyl-1,3-dioxen-4-one | 1.637 mol, 232.48 g | CC1=CC(=O)OC(O1)(C)C | C7H10O3
solvent | xylene | 525 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 525 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N,N′-bis(acetoacetyl)-2-methylpiperazine | 216.66 g, 99% | C(CC(=O)C)(=O)N1C(CN(CC1)C(CC(=O)C)=O)C | C13H20N2O4
